US05108485
Preparation of 3,6-Dihydro-a-isopropyl-a,6-dimethyl-1,3 dioxobenzo[1,2 b:3,4-c']dipyrrole-2(1H)acetamide
Concentrated sulfuric acid (5.50 mL) is added slowly to a solution of 3,6-dihydro-a-isopropyl-a,6-dimethyl-1,3-dioxobenzo[1,2-b:3,4-c']dipyrrole-2(1H)-acetonitrile (5.50 g, 19.0 mmol) in methylene chloride at 10° C. Crushed ice is added. The mixture is stirred for 24 hours at ambient temperature and poured onto crushed ice, treated with 6N sodium hydroxide to pH 2, and extracted with methylene chloride. The organic layer is separated, dried (MgSO4) and concentrated in vacuo to give an orange foamy residue. Flash chromatography (silica gel, ether then ethyl acetate eluents) affords the title product as a yellow foam (1.53 g, 25.7%), mp 159°-168° C.

reactant | sulfuric acid | 5.50 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3,6-dihydro-a-isopropyl-a,6-dimethyl-1,3-dioxobenzo[1,2-b:3,4-c']dipyrrole-2(1H)-acetonitrile | 19.0 mmol, 5.50 g | C(C)(C)C(C#N)(N1C(C2=C(C1=O)C=CC=1N(C=CC12)C)=O)C | C17H17N3O2
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,6-Dihydro-a-isopropyl-a,6-dimethyl-1,3 dioxobenzo[1,2 b:3,4-c']dipyrrole-2(1H)acetamide | 1.53 g, 25.7% | C(C)(C)C(C(=O)N)(N1C(C2=C(C1=O)C=CC=1N(C=CC12)C)=O)C | C17H19N3O3
